US05677311
(S)-N-(3,7-Dimethyl-3,7-diazabicyclo[3.3.1]non-9-yl)-4-amino-5-chloro-2-(1-methyl-2-butynyl)oxybenzamide
A solution of 546 mg of (S)-4-amino-5-chloro-2-[(1-methyl-2-butynyl)oxy]benzoic acid and 0.9 ml of triethylamine in 10 ml of dichloromethane was cooled with ice. followed by the addition thereto of 0.225 ml of ethyl chloroformate. The obtained mixture was stirred for 10 minutes, while the temperature was brought to room temperature. 400 mg of 9-amino-3,7-dimethyl-3,7-diazabicyclo[3.3.1]nonane was added to the resulting mixture at room temperature. The obtained mixture was stirred for 30 minutes, followed by the addition thereto of 200 mg of 9-amino-3,7-dimethyl-3,7-diazabicyclo[3.3.1]nonane at room temperature. The obtained mixture was stirred for one hour, followed by the addition thereto of dichloromethane and water. The pH of the aqueous layer was adjusted to 10 or above with a 2.5N aqueous solution of sodium hydroxide. The organic phase was recovered, dried over anhydrous magnesium sulfate, and concentrated in a vacuum. The residue was purified by silica gel column chromatography (with 0 to 10 to 20% methanol/chloroform and then with chloroform/methanol/aqueous ammonia (75/25/1.5) to give 650 mg of the title compound.

reactant | (S)-4-amino-5-chloro-2-[(1-methyl-2-butynyl)oxy]benzoic acid | 546 mg | NC1=CC(=C(C(=O)O)C=C1Cl)O[C@H](C#CC)C | C12H12ClNO3
reactant | ethyl chloroformate | 0.225 ml | ClC(=O)OCC | C3H5ClO2
reactant | 9-amino-3,7-dimethyl-3,7-diazabicyclo[3.3.1]nonane | 400 mg | NC1C2CN(CC1CN(C2)C)C | C9H19N3
reactant | 9-amino-3,7-dimethyl-3,7-diazabicyclo[3.3.1]nonane | 200 mg | NC1C2CN(CC1CN(C2)C)C | C9H19N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
product | (S)-N-(3,7-Dimethyl-3,7-diazabicyclo[3.3.1]non-9-yl)-4-amino-5-chloro-2-(1-methyl-2-butynyl)oxybenzamide | 650 mg | CN1CC2CN(CC(C1)C2NC(C2=C(C=C(C(=C2)Cl)N)O[C@H](C#CC)C)=O)C | C21H29ClN4O2
